US07425634B2
(6b) 4-((2-methoxy-1,3-dioxan-5-yl)methoxy)-2,3-dimethylpyridine 1-oxide
To a dimethylsulfoxide (10 ml) solution of the (2-methoxy-1,3-dioxan-5-yl)methanol (2.0 g, 13.5 mmol) obtained in the same manner of step (6a), sodium hydride, in oil (770 mg, 14.9 mmol as the content was regarded as 55%) was added at room temperature. To the mixture, 4-chloro-2,3-dimethylpyridine 1-oxide (2.13 g, 13.5 mmol) was added and the mixture was stirred at 60° C. for 2.5 hours. After the reaction mixture was cooled to room temperature, it was concentrated. The residue was purified by silica gel column chromatography (NH silica gel, elution solvent: ethyl acetate/methanol) to obtain the title compound (1.8 g, 49.5% yield), which was a cis and trans (1:1) mixture, as a yellow oil.

reactant | (2-methoxy-1,3-dioxan-5-yl)methanol | 13.5 mmol, 2.0 g | COC1OCC(CO1)CO | C6H12O4
reactant | sodium hydride | [H-].[Na+]
reactant | 4-chloro-2,3-dimethylpyridine 1-oxide | 13.5 mmol, 2.13 g | ClC1=C(C(=[N+](C=C1)[O-])C)C | C7H8ClNO
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 4-((2-methoxy-1,3-dioxan-5-yl)methoxy)-2,3-dimethylpyridine 1-oxide | 1.8 g, 49.5% yield | COC1OCC(CO1)COC1=C(C(=[N+](C=C1)[O-])C)C | C13H19NO5
